US09421298B2
Synthesis of triethyl 4-oxo-3-oxa-7,14,21-triazatricosane-6,22,23-tricarboxylate (2)
Analogously to (1), 154 g (0.72 mol) of bis(hexamethylene)triamine and 246 g (1.42 mol) of diethyl maleate were used to obtain 400 g of the product as a yellow liquid.

reactant | bis(hexamethylene)triamine | 0.72 mol, 154 g | C(CCCNCCCCCCN)CCN | C12H29N3
reactant | diethyl maleate | 1.42 mol, 246 g | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
product | triethyl 4-oxo-3-oxa-7,14,21-triazatricosane-6,22,23-tricarboxylate | 400 g | O=C(OCC)CC(NCCCCCCNCCCCCCNC(CC(=O)OCC)C(=O)OCC)C(=O)OCC | C28H53N3O8
